US06699873B1
2-{2[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-phenyl}-3a,4,5,6,7,7a-hexahydro-1H-benzoimidazole (Compound UZ).
As shown in Scheme 12, a solution of 187 mg (0.43 mmol) of 2-[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-dithiobenzoic acid ethyl ester in 2.5 mL of trans-1,2 diaminocyclohexane was heated to 110° C. in a sealed pressure tube for 12 hours. The reaction mixture was diluted with water and extracted with methylene chloride twice. The organic extracts were washed with brine, dried (MgSO4) and evaporated. The residue was chromatographed on silica gel (eluting with 95:5 CH2Cl2/methanol) to give a yellow oil. The oil was treated with methanolic HCl and evaporated to yield 34 mg of product as a pure hydrochloride salt.

reactant | 2-[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-dithiobenzoic acid ethyl ester | 0.43 mmol, 187 mg | C(C)SC(C1=C(C(=CC=C1)Cl)CCC1=C(C=CC(=C1)Br)OC)=S | C18H18BrClOS2
reactant | HCl | Cl | ClH
reactant | trans-1,2 diaminocyclohexane | 2.5 mL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | water | O | H2O
product | 2-{2[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-phenyl}-3a,4,5,6,7,7a-hexahydro-1H-benzoimidazole | 34 mg | BrC=1C=CC(=C(C1)CCC1=C(C=CC=C1Cl)C1=NC2C(N1)CCCC2)OC | C22H24BrClN2O
